US05593988
5-(2-Chlorophenyl)-7-ethyl-1-methyl-1,3-dihydro-2H-thieno[2,3-e][1,4]diazepin-2-one (3 g) was dissolved in chloroform (60 ml) and m-chloroperbenzoic acid (4.3 g) was added thereto with stirring at room temperature. The mixture was further stirred for 8 hours. The reaction mixture was washed with 0.5N sodium hydroxide and water and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the residue obtained was dissolved in acetic anhydride (30 ml). The mixture was stirred while heating at 70° C. After cooling, the reaction mixture was poured into water and neutralized with sodium hydrogen-carbonate. After the mixture was extracted with ethyl acetate, the organic layer was washed with an aqueous solution of sodium hydrogencarbonate and water, and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was dissolved in methanol (40 ml). A solution of sodium hydroxide (0.6 g) in water (10 ml) was added thereto at room temperature with stirring and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure and water (50 ml) was added thereto. After the mixture was extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography to give 1.3 g of crude 5-(2-chlorophenyl)-7-ethyl-3-hydroxy-1-methyl-1,3-dihydro-2H-thieno[2,3-e][1,4]diazepin-2-one. This compound (0.7 g) was dissolved in toluene (20 ml) and 3-methylphenylisocyanate (0.31 g) was added thereto. The mixture was stirred for 2 days while heating at 90° C. After cooling, the reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give 0.25 g of (5-(2-chlorophenyl)-7-ethyl-1-methyl-oxo-1,3-dihydro-2H-thieno[2,3-e][1,4]-diazepin-3-yl)-N-(3-methylphenyl)carbamate having a melting point of 181°-182.5° C.

reactant | 5-(2-Chlorophenyl)-7-ethyl-1-methyl-1,3-dihydro-2H-thieno[2,3-e][1,4]diazepin-2-one | 3 g | ClC1=C(C=CC=C1)C=1C2=C(N(C(CN1)=O)C)SC(=C2)CC | C16H15ClN2OS
reactant | m-chloroperbenzoic acid | 4.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(2-chlorophenyl)-7-ethyl-3-hydroxy-1-methyl-1,3-dihydro-2H-thieno[2,3-e][1,4]diazepin-2-one | 1.3 g | ClC1=C(C=CC=C1)C=1C2=C(N(C(C(N1)O)=O)C)SC(=C2)CC | C16H15ClN2O2S
